US07390923B2
b) 2-Methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide
m-Chloroperoxybenzoic acid (6.7 g, 29.9 mmol) was added in portions at 60° C. to a solution of 2-methyl-N-(3-methyl-4-nitrophenyl)acrylamide (2.9 g, 13.2 mmol) and 2,6-di-tert-butyl-4-methylphenol (66 mg) in 1,2-dichloroethane (80 ml). The string was continued at 60° C. for 6 h, and the reaction mixture was allowed to cool to room temperature. The precipitated m-chlorobenzoic acid was filtered, and the filtrate was extracted with 1 M Na2CO3 (4×60 ml). The organic phase was dried over Na2SO4 and evaporated. The yield was 3.05 g. 1H NMR (DMSO-d6): 1.54 (3H, s), 2.51 (3H, s), 2.99 (1H, d, J=5.1 Hz), 3.05 (1H, d, J=5.1 Hz), 7.79 (2H, m), 8.01 (1H, m), 9.98 (1H, s).

reactant | m-Chloroperoxybenzoic acid | 29.9 mmol, 6.7 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-methyl-N-(3-methyl-4-nitrophenyl)acrylamide | 13.2 mmol, 2.9 g | CC(C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)=C | C11H12N2O3
reactant | 2,6-di-tert-butyl-4-methylphenol | 66 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | 2-Methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
